* Five-transistor OTA IDC with project PDK (run from project root: ngspice -b scene2/sim/AMP_IDC_pdk.cir)
.lib 'scene2/models/sky130.lib.spice' tt
.include 'scene2/sim/AMP.cir'

V1 VSS 0 dc=0
V0 VDD_SOURCE 0 dc=1.8
VMEAS VDD_SOURCE VDD 0

VIN Vinn 0 dc=0.9
VIP Vinp 0 dc=0.9

XI1 Vinp Vinn VDD VSS Vout AMP
C1 Vout 0 2e-12

.op
.CONTROL
run
op
print i(vmeas) > Idc_1.txt
* 工作点：XM1-XM9 每行 vds vgs vth（便于判断饱和区）
print @m.XI1.XM1.msky130_fd_pr__nfet_01v8[vds] @m.XI1.XM1.msky130_fd_pr__nfet_01v8[vgs] @m.XI1.XM1.msky130_fd_pr__nfet_01v8[vth] > Op_1.txt
print @m.XI1.XM2.msky130_fd_pr__nfet_01v8[vds] @m.XI1.XM2.msky130_fd_pr__nfet_01v8[vgs] @m.XI1.XM2.msky130_fd_pr__nfet_01v8[vth] >> Op_1.txt
print @m.XI1.XM3.msky130_fd_pr__nfet_01v8[vds] @m.XI1.XM3.msky130_fd_pr__nfet_01v8[vgs] @m.XI1.XM3.msky130_fd_pr__nfet_01v8[vth] >> Op_1.txt
print @m.XI1.XM4.msky130_fd_pr__nfet_01v8[vds] @m.XI1.XM4.msky130_fd_pr__nfet_01v8[vgs] @m.XI1.XM4.msky130_fd_pr__nfet_01v8[vth] >> Op_1.txt
print @m.XI1.XM5.msky130_fd_pr__pfet_01v8_lvt[vds] @m.XI1.XM5.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.XI1.XM5.msky130_fd_pr__pfet_01v8_lvt[vth] >> Op_1.txt
print @m.XI1.XM6.msky130_fd_pr__pfet_01v8_lvt[vds] @m.XI1.XM6.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.XI1.XM6.msky130_fd_pr__pfet_01v8_lvt[vth] >> Op_1.txt
print @m.XI1.XM7.msky130_fd_pr__pfet_01v8_lvt[vds] @m.XI1.XM7.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.XI1.XM7.msky130_fd_pr__pfet_01v8_lvt[vth] >> Op_1.txt
print @m.XI1.XM8.msky130_fd_pr__pfet_01v8_lvt[vds] @m.XI1.XM8.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.XI1.XM8.msky130_fd_pr__pfet_01v8_lvt[vth] >> Op_1.txt
print @m.XI1.XM9.msky130_fd_pr__nfet_01v8[vds] @m.XI1.XM9.msky130_fd_pr__nfet_01v8[vgs] @m.XI1.XM9.msky130_fd_pr__nfet_01v8[vth] >> Op_1.txt
.ENDC
.END
